US09065061B2
Step 1: Synthesis of 3-isopropyl-4,5-diphenyl-4H-1,2,4-triazole (abbreviation HiPrptz)
First, 6.1 g of N-[1-(ethylsulfanyl)isobutylidene]aniline, 3.4 g of benzoylhydrazine, and 30 mL of 1-butanol were put in a 200 mL recovery flask, and heated and stirred at 130° C. for 7 hours to be reacted. After the reaction, 1-butanol was distilled off under a reduced pressure to give an oily substance. This oily substance was purified by silica gel column chromatography. As developing solvents, first, dichloromethane was used, and then ethyl acetate was used. The resulting fraction was concentrated to give a white solid. The given solid was recrystallized from a mixed solvent of ethanol and hexane, so that 1.6 g of 3-isopropyl-4,5-diphenyl-4H-1,2,4-triazole was prepared as a white solid with a yield of 24%. The synthetic scheme of Step 1 is shown by (a-8).

reactant | N-[1-(ethylsulfanyl)isobutylidene]aniline | 6.1 g | C(C)SC(C(C)C)=NC1=CC=CC=C1 | C12H17NS
reactant | benzoylhydrazine | 3.4 g | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
solvent | 1-butanol | C(CCC)O | C4H10O
solvent | 1-butanol | 30 mL | C(CCC)O | C4H10O
product | 3-isopropyl-4,5-diphenyl-4H-1,2,4-triazole | yield of 24% | C(C)(C)C1=NN=C(N1C1=CC=CC=C1)C1=CC=CC=C1 | C17H17N3
